US05459138
4-ISOPROPYLAMINOPYRIDINE-3-SULFONAMIDE
10 g of 4-chloropyridine-3-sulfonamide are dissolved in 50 cm3 of methanol and 50 cm3 of isopropylamine. The solution is introduced into a sealed tube and brought to 120° C. for 18 hours. After cooling, the reaction mixture is concentrated to dryness under vacuum (rotary evaporator) and the residue is taken up in 200 cm3 of water. The precipitate corresponding to the title compound is collected on a filter and washed with water. The precipitate is redissolved in 100 cm3 of dilute NaOH. The solution is decolored with charcoal, filtered and then acidified to a pH of 6.5-7. The crystalline precipitate obtained is collected on a filter, washed with water and dried.

reactant | 4-chloropyridine-3-sulfonamide | 10 g | ClC1=C(C=NC=C1)S(=O)(=O)N | C5H5ClN2O2S
reactant | isopropylamine | 50 cm3 | C(C)(C)N | C3H9N
solvent | methanol | 50 cm3 | CO | CH4O
product | 4-ISOPROPYLAMINOPYRIDINE-3-SULFONAMIDE | C(C)(C)NC1=C(C=NC=C1)S(=O)(=O)N | C8H13N3O2S
